US07943607B2
3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(2,2,3-trimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]benzamide
A mixture of 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (0.25 g, 0.82 mmol), 7-fluoro-2,2,3-trimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one (172 mg, 0.82 mmol) and potassium carbonate (226 mg, 1.64 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 160° C. for 12 hours. The mixture was reduced in vacuo and ethyl acetate (50 mL) added. The mixture was washed with water (50 mL), brine (50 mL), dried (MgSO4), and reduced in vacuo to give a brown oil which was chromatographed on silica, eluting with 0-10% methanol in DCM, to give the desired compound as a white foam (122 mg).

reactant | 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.82 mmol, 0.25 g | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC)C | C15H19N3O4
reactant | 7-fluoro-2,2,3-trimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one | 0.82 mmol, 172 mg | FC1=CC2=C(C(N(C(O2)(C)C)C)=O)C=C1 | C11H12FNO2
reactant | potassium carbonate | 1.64 mmol, 226 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(2,2,3-trimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]benzamide | 122 mg | C[C@@H](COC)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC2=C(C(N(C(O2)(C)C)C)=O)C=C1 | C26H30N4O6
